US07678813B2
2-(4-tert-Butylbenzenesulfonyl)-8a-(4-piperidin-1-ylbenzyl)-1,3,4,7,8,8a-hexahydro-2H-isoquinolin-6-one (IA-5: Y=4-piperidin-1-yl, R4=4-(t-butyl)Ph)
The following compounds were similarly prepared from 2-(4-t-Butylbenzenesulfonyl)-8a-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzyl]-1,3,4,7,8,8a-hexahydro-2H-isoquinolin-6-one (IA-5: Y=4-(B(OC(CH3)2C(CH3)2O)):

reactant | 2-(4-t-Butylbenzenesulfonyl)-8a-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzyl]-1,3,4,7,8,8a-hexahydro-2H-isoquinolin-6-one | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1CC2(CCC(C=C2CC1)=O)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C32H42BNO5S
reactant | IA-5 | CCN(CC)CCN1C2=C3C(=C(C=C2)C)SC4=CC=CC=C4C3=N1 | C20H23N3S
product | 2-(4-tert-Butylbenzenesulfonyl)-8a-(4-piperidin-1-ylbenzyl)-1,3,4,7,8,8a-hexahydro-2H-isoquinolin-6-one | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1CC2(CCC(C=C2CC1)=O)CC1=CC=C(C=C1)N1CCCCC1 | C31H40N2O3S
